US09428528B2
Step 4 Preparation of N-((1S,2R)-2-{4-[6-(1-Amino-2-cyano-ethyl)-pyridin-3-yl]-phenyl}-1-fluoromethyl-2-hydroxy-ethyl)-2,2-difluoro-acetamide
To a solution of 2-methyl-propane-2-sulfinic acid [2-cyano-1-(5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-ethyl]-amide (0.21 g, 0.392 mmol) in Ethyl acetate (2 mL) is added HCl in dioxane (2.0 mL) at 0° C. The resulting reaction mixture is stirred at room temperature for 3 hours. Solvent is evaporated in vacuo to get the crude residue and diluted with aqueous ammonia solution and extracted with ethyl acetate. Organic layer is dried over sodium sulphate, concentrated and purified by combi-flash chromatography using 7-8% methanol in CH2Cl2 to afford the title compound (0.032 g): 1HNMR (400 MHz, DMSO-d6) δ: 2.85-2.99 (m, 2H), 4.24-4.35 (m, 2.5H), 4.40-4.44 (m, 0.5H), 4.54-4.55 (m, 0.5H), 4.64-4.67 (m, 0.5H), 4.87-4.88 (m, 2H), 5.92 (d, J=4.44 Hz, 1H), 6.20 (t, J=53.8 Hz, 1H), 7.46 (d, J=8.16 Hz, 2H), 7.62 (d, J=8.16 Hz, 1H), 7.71 (d, J=8.22 Hz, 2H), 8.09-8.12 (dd, J1=2.32 Hz, J2=8.2 Hz, 1H), 8.84-8.87 (m, 2H). LC-MS (m/z): [M+H]=393.0.

reactant | 2-methyl-propane-2-sulfinic acid [2-cyano-1-(5-{4-[(4S,5R)-3-(2,2-difluoro-acetyl)-4-fluoromethyl-2,2-dimethyl-oxazolidin-5-yl]-phenyl}-pyridin-2-yl)-ethyl]-amide | 0.392 mmol, 0.21 g | C(#N)CC(C1=NC=C(C=C1)C1=CC=C(C=C1)[C@@H]1[C@H](N(C(O1)(C)C)C(C(F)F)=O)CF)NS(=O)C(C)(C)C | C26H31F3N4O3S
reactant | HCl | Cl | ClH
solvent | Ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
solvent | ammonia | N | H3N
product | N-((1S,2R)-2-{4-[6-(1-Amino-2-cyano-ethyl)-pyridin-3-yl]-phenyl}-1-fluoromethyl-2-hydroxy-ethyl)-2,2-difluoro-acetamide | 0.032 g | NC(CC#N)C1=CC=C(C=N1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(F)F)=O)O | C19H19F3N4O2
